US06057326
(S)-4-[α-(acetoxymethyl)benzylamino]-6,7-dimethoxyquinazoline
A solution of (S)-4-[α-(hydroxymethyl)benzylamino]-6,7dimethoxyquinazoline (70 mg, 0.21 mmol) in acetic anhydride (2 ml) was stirred at room temperature for 3 h. Then water was added to the reaction mixture, the precipitate was filtered, washed with water and dried under vacuum. Thus pure title compound was obtained in 90% yield (71 mg).

reactant | (S)-4-[α-(hydroxymethyl)benzylamino]-6,7dimethoxyquinazoline | 0.21 mmol, 70 mg | OC[C@H](C1=CC=CC=C1)NC1=NC=NC2=CC(=C(C=C12)OC)OC | C18H19N3O3
reactant | water | O | H2O
reactant | acetic anhydride | 2 ml | C(C)(=O)OC(C)=O | C4H6O3
product | (S)-4-[α-(acetoxymethyl)benzylamino]-6,7-dimethoxyquinazoline | 90% yield | C(C)(=O)OC[C@H](C1=CC=CC=C1)NC1=NC=NC2=CC(=C(C=C12)OC)OC | C20H21N3O4
